US07071184B2
j. [(S)-1-((3S,4S,7R)-2-Pyridinesulfonyl-3-hydroxy-7-methyl-azepan-4-ylcarbamoyl)-3-methyl-butyl]-carbamic acid tert-butyl ester
2-Pyridine sulfonyl chloride (0.71 g, 0.4 mmol) was added to a solution of [(S)-1-((3S,4S,7R)-3-hydroxy-7-methyl-azepan-4-ylcarbamoyl)-3-methyl-butyl]-carbamic acid tert-butyl ester (0.126 g, 0.344 mmol), sodium bicarbonate (0.87 g, 1.03 mmol) in CH2Cl2 (3 ml) and H2O (2 ml) and was stirred at RT for 30 minutes. The reaction mixture was diluted with EtOAc (100 ml), washed with H2O, brine, dried with magnesium sulfate, filtered, concentrated in vacuo by rotary evaporation, and chromatographed (silica gel, 3% MeOH/CH2Cl2) to yield the title compound (0.180 g, 70%): 1H NMR: 8.68 (m, 1H), 8.05 (1H, d), 7.92 (1H, dd), 7.50 (1H, dd), 6.66 (1H, bd), 4.95–4.88 (dd), 4.20–3.87 (m, 3H), 3.65 (1H, bs), 3.40 (1H, d), 1.94–1.57 (m, 4H), 1.45–1.38 (m, 6H), 1.14 (3H, dd), 0.94 (6H, dd); Electrospray mass spec: M+H+=499.0.

reactant | 2-Pyridine sulfonyl chloride | 0.4 mmol, 0.71 g | N1=C(C=CC=C1)S(=O)(=O)Cl | C5H4ClNO2S
reactant | [(S)-1-((3S,4S,7R)-3-hydroxy-7-methyl-azepan-4-ylcarbamoyl)-3-methyl-butyl]-carbamic acid tert-butyl ester | 0.344 mmol, 0.126 g | C(C)(C)(C)OC(N[C@@H](CC(C)C)C(N[C@@H]1[C@H](CN[C@@H](CC1)C)O)=O)=O | C18H35N3O4
reactant | sodium bicarbonate | 1.03 mmol, 0.87 g | C([O-])(O)=O.[Na+]
solvent | CH2Cl2 | 3 ml | C(Cl)Cl | CH2Cl2
solvent | H2O | 2 ml | O | H2O
solvent | EtOAc | 100 ml | CCOC(=O)C | C4H8O2
product | [(S)-1-((3S,4S,7R)-2-Pyridinesulfonyl-3-hydroxy-7-methyl-azepan-4-ylcarbamoyl)-3-methyl-butyl]-carbamic acid tert-butyl ester | 0.180 g, 70% | C(C)(C)(C)OC(N[C@@H](CC(C)C)C(N[C@@H]1[C@@H](C(N[C@@H](CC1)C)S(=O)(=O)C1=NC=CC=C1)O)=O)=O | C23H38N4O6S
